US04172198
To a solution of 2-(4-oxo-1,4-dihydropyridine-3-yloxy)acetic acid (16.9 g) in 0.5 N sodium hydroxide aqueous solution (200 ml), was added dropwise under cooling a sodium hypochlorite aqueous solution (70 ml) whose active chlorine is about 10% at 3° to 8° C. with stirring. The mixture was stirred for 30 minutes at the same temperture and adjusted to pH 3 with 10% hydrochloric acid. Precipitated crystals were collected by filtration, recrystallized from 1 N hydrochloric acid and dried at 90° to 95° C. for 4-5 hours in a stream of air to give crystals (16.7 g) of 2-(4-oxo-5-chloro-1,4-dihydropyridin-3-yloxy)acetic acid, mp 253° to 255° C.

reactant | 2-(4-oxo-1,4-dihydropyridine-3-yloxy)acetic acid | 16.9 g | O=C1C(=CNC=C1)OCC(=O)O | C7H7NO4
reactant | sodium hypochlorite | 70 ml | Cl[O-].[Na+]
reactant | chlorine | ClCl | Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 0.5 N, 200 ml | [OH-].[Na+]
product | 2-(4-oxo-5-chloro-1,4-dihydropyridin-3-yloxy)acetic acid | 16.7 g | O=C1C(=CNC=C1Cl)OCC(=O)O | C7H6ClNO4
